US08304419B2
3-bromo-5-({6-chloro-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)benzonitrile
The title compound was prepared in a manner similar to that described herein using 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile (0.61 g, 1.715 mmol), ethyl 4-{[(1E)-(dimethylamino)methylidene]amino}-1H-imidazole-5-carboxylate (0.397 g, 1.887 mmol) and phenol (0.484 g, 5.15 mmol) in DCM (3 mL) to give 0.31 g (38%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.58 (br. s., 1H), 8.45 (s, 1H), 8.17 (br. s., 1H), 7.93 (s, 1H), 7.58 (d, 2H), 7.47 (d, 1H), 7.21 (t, 1H), 5.30 (s, 2H). LCMS m/z 474.1 (M−H).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-bromobenzonitrile | 1.715 mmol, 0.61 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Br)F | C14H9BrClFN2O
reactant | ethyl 4-{[(1E)-(dimethylamino)methylidene]amino}-1H-imidazole-5-carboxylate | 1.887 mmol, 0.397 g | CN(C)\C=N\C=1N=CNC1C(=O)OCC | C9H14N4O2
reactant | phenol | 5.15 mmol, 0.484 g | C1(=CC=CC=C1)O | C6H6O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-({6-chloro-2-fluoro-3-[(6-oxo-6,7-dihydro-1H-purin-1-yl)methyl]phenyl}oxy)benzonitrile | 0.31 g, 38% | BrC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CN1C=NC=2N=CNC2C1=O)F | C19H10BrClFN5O2
